US07470705B2
Step 5. Preparation of (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Add acetic anhydride (0.023 mL, 1.205 mmol) to a solution of (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (125 mg, 0.241 mmol) and pyridine (0.097 mL, 1.205 mmol) in dichloromethane (2 mL), and stir at room temperature for 14 h. Remove the solvent under reduced pressure and purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (105 mg, 78%). 1H NMR (CDCl3, 300 MHz): δ 0.66-0.72 (m, 3H), 1.20-1.29 (m, 7H), 1.33-1.69 (m, 3H), 2.01-2.21 (m, 3H), 2.26-2.33 (m, 1H), 3.82, 3.86 (s, 3H), 4.22-4.28 (m, 1H), 4.81-5.01 (m, 2H), 6.59, 6.65 (d, J=8.7 Hz, 1H), 7.61-7.73 (m, 4H). MS (ES+): 562 (M+H).

reactant | acetic anhydride | 1.205 mmol, 0.023 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.241 mmol, 125 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C24H27F6N3O3
reactant | pyridine | 1.205 mmol, 0.097 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 105 mg, 78% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)CC | C26H29F6N3O4
